US04966989
206.6 g (0.47 mol) of a 35 percent mixture of 4-chloroacetoacetyl chloride in methylene chloride was cooled to -10° C. Under nitrogen, 102.4 g (3.2 mol) of methanol was added in 30 minutes and then 83.3 g (0.7 mol) of thionyl chloride was added in 30 minutes (formation of dimethyl sulfite). The temperature was raised to room temperature and the solution was stirred for 3 hours at 20° to 25° C. The excess methanol and methylene chloride were then distilled off at reduced pressure. The residue (raw 4-chloro-3,3-dimethoxybutanoic acid methyl ester) was mixed with 0.21 g of methanesulfonic acid and warmed to 125° to 130° C. at a pressure of 100 mbars. Thus, the formed methanol and the excess dimethyl sulfite was distilled off. The residue (raw 4-chloro-3-methoxy-but-2E-enoic acid methyl ester) was taken up in 110.2 g (120 ml) of toluene and the organic phase was washed with 69.8 g of aqueous 16 percent HCl for 30 minutes, with 32.1 g of an aqueous 10 percent sodium chloride solution for 10 minutes, with 134 g of aqueous 10 percent NaOH for 75 minutes and finally with 32.1 g of an aqueous 10 percent sodium chloride solution for 10 minutes. The toluene was then evaporated off and the residue was distilled at a pressure of 20 mbars and a temperature of 95° to 97° C. 4-chloro-3-methoxybut-2E-enoic acid methyl ester was obtained in a yield of 61.7 g (80 percent) in a purity of 99.5 percent (GC).

reactant | 4-chloroacetoacetyl chloride | ClCC(CC(=O)Cl)=O | C4H4Cl2O2
reactant | methanol | 3.2 mol, 102.4 g | CO | CH4O
reactant | thionyl chloride | 0.7 mol, 83.3 g | S(=O)(Cl)Cl | Cl2OS
reactant | dimethyl sulfite | S(=O)(OC)OC | C2H6O3S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-chloro-3-methoxybut-2E-enoic acid methyl ester | COC(\C=C(/CCl)\OC)=O | C6H9ClO3
